US05580893
N-(2-Nitroxyethyl)phenylthioacetamide (Exemplified compound No. 36)
Following a similar treatment to that in Example 2 and using 0.72 g of phenylthioacetic acid and 0.60 g of 2-nitroxyethylamine nitrate, 0.57 g of the title compound was obtained as colorless powdery crystals (solvent for recrystallization; diisopropyl ether).

reactant | phenylthioacetic acid | 0.72 g | C1(=CC=CC=C1)CC(=S)O | C8H8OS
reactant | 2-nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)phenylthioacetamide | 0.57 g | O([N+](=O)[O-])CCNC(CC1=CC=CC=C1)=S | C10H12N2O3S
